US04427437
Preparation of 5-chloro-2-[3-(2,2-dibromovinyl)phenoxy]-pyrimidine (156)
Carbon tetrabromide (3.32 g) was added with stirring to a solution of triphenylphosphine (5.24 g) in methylne chloride (20 ml) at 20° C. 5-Chloro-2-(3-formylphenoxy)-pyrimidine (1.8 g) was added immediately to the warm orange solution causing the colour to fade rapidly. After 2 hours at 20° C. the reaction mixture was washed with water and then the organic layer was dried and concentrated to a thick syrup. Extraction of this syrup with n-hexane (4×50 ml), followed by evaporation of the n-hexane gave a colourless oil (3 g). The oil was chromatographed on a column of silica gel (50 g) and elution with chloroform gave the title compound, in the first fractions, as a colourless crystalline solid (1.95 g), m.p. 68° C.

reactant | Carbon tetrabromide | 3.32 g | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 5.24 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 5-Chloro-2-(3-formylphenoxy)-pyrimidine | 1.8 g | ClC=1C=NC(=NC1)OC1=CC(=CC=C1)C=O | C11H7ClN2O2
solvent | chloride | 20 ml | [Cl-]
product | 5-chloro-2-[3-(2,2-dibromovinyl)phenoxy]-pyrimidine | 3 g | ClC=1C=NC(=NC1)OC1=CC(=CC=C1)C=C(Br)Br | C12H7Br2ClN2O
